US07807709B2
(3R,4R)-3-Cyclopropylaminomethyl-4-({cyclopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
In a similar manner as described in Example 149 for the reaction step D, the following starting material is prepared from (3R,4S)-3-({cyclopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-4-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester (1.79 g, 3.65 mmol) (prepared according to example 9 using cyclopropyl amine instead of isopropyl amine under F), cyclopropyl amine (0.287 mL, 4.01 mmol) and NaBHOAc3 (1.14 g, 5.11 mmol) to give the title compound which is used in the next steps without further purification. TLC, Rf (CH2Cl2/AcOEt 9:1)=0.35. MS (LC-MS): 532.0 [M+H]+.

reactant | (3R,4S)-3-({cyclopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-4-formyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 3.65 mmol, 1.79 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)C=O)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C1CC1 | C26H38N2O7
reactant | cyclopropyl amine | C1(CC1)N | C3H7N
reactant | cyclopropyl amine | 4.01 mmol, 0.287 mL | C1(CC1)N | C3H7N
product | (3R,4R)-3-Cyclopropylaminomethyl-4-({cyclopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C1CC1)CNC1CC1 | C29H45N3O6
